US04904690
Ethyl [2-(1-cyclohexenyl]-4-oxo-4H-[1]-benzopyran-8-yl]acetate
2-(1-Bromocyclohexyl)-8-cyanomethyl-4-oxo-4H-[1]-benzopyran (5.0 g) and 50% sulfuric acid (4 ml) were added to ethanol (400 ml) and the mixture was refluxed for 8 hours. Then, ethanol (about 300 ml) was distilled off under reduced pressure and the residue was added to water. The mixture was extracted with ethyl acetate and the extract was washed with water, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate to obtain the title compound, yield 56%.

reactant | 2-(1-Bromocyclohexyl)-8-cyanomethyl-4-oxo-4H-[1]-benzopyran | 5.0 g | BrC1(CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC#N | C17H16BrNO2
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl [2-(1-cyclohexenyl]-4-oxo-4H-[1]-benzopyran-8-yl]acetate | yield 56% | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)OCC | C19H20O4
